Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
___ Biopsy ___
 
History of Present Illness:
HPI:  This is a ___ year-old with the history below who presented
to ___ with 1 wk h/o fatigue. Pt was well until
___ when he began to feel malaise. He got progressively more
fatigued over the next few days. He also started having
intermittent fever, max 100.7, chills/sweats that would resolve
with Tylenol. He felt dizzy, lightheaded at times. Denied abd
pain, CP, SOB, n/v but endorsed poor PO intake. Denied cough,
dysuria, increased urine frequency, diarrhea, muscle/joint pain,
neck stiffness. Denied new meds recently. Denied sick contacts 
or
recent URI sxs. Denies recent wt loss. Has two dogs at home that
are fully immunized. 

On arrival to ___, he was hypotensive to SBP ___. He was
given 3L of IVFs. Labs revealed leukopenia and thrombocytopenia.
He was given vanc and zosyn and was xferred to ___ for further
eval. He was given 3L MORE of IVFs with stabilization of BP and
admitted for ___.
.

--------------- --------------- --------------- ---------------

Allergies: NKDA
.
Social History: ___
Family History: No h/o hematologic d/o's. Dad and most of his
sibs lived till ___ years old. 

ROS:
Positives on review of systems: as noted in HPI
All other systems reviewed and negative, specifically, denies:
visual changes, numbness/weakness, chest pain, shortness of
breath, fevers, nausea, vomiting, abdominal pain, diarrhea,
bleeding, rash, joint aches/pains.
.

.
DATA: Labs reviewed in OMR (see results section in omr) as well
as radiographic reports and other reports in OMR, microbiology
(see reports section, microbioloby in omr).  Specific comments 
on
findings: 
.Leukopenia w/o bands, smear without schistocytes,
thrombocytopenia 

ECG: n/a
.

Assessment and Plan:
.
Acute problems:
#Pancytopenia 
-No obvious etiology
-Remote h/o Lyme arthritis
-No new meds
-Check ESR, CRP, HIV, EBV, CMV panels
-Check iron, TIBC, ferritin, retic ct
-Consult heme in AM (please place order) 
for BM bx 
-Lyme titers sent from ER
-F/u peripheral smear results 

#Febrile neutropenia 
-Pan-cx pending 
-CXR and UA at ___ unremarkable
-Given HoTN, fever, empiric cefepime
-IVFs 

Chronic or subacute problems:
#HTN
-Hold home meds given HOTN 
-Hold asa given thrombocytopenia 

#HLD 
-Hold statin in acute setting

#PPX: Hold SQH given low plts
#Code Status: Full Code 
 
Past Medical History:
 
HTN
HLD 
remote kidney stones 
hernia repair 
Lyme dz 
-Dx'd under ___ yr ago from 
isolated joint aspirate that was 
obtained d/t effusion
-Treated with 30 days of unknown abx 
at the time

 
Physical Exam:
ADMISSION Physical Exam:
.
VS:  Afebrile and vital signs stable (reviewed in bedside 
record)
General Appearance: pleasant, comfortable, no acute distress
Eyes: Dry mms
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No
sensory deficits to light touch appreciated.  No pass-pointing 
on
finger to nose.  2+DTR's-patellar and biceps. No asterixis, no
pronator drift, fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

DISCHARGE PHYSICAL Exam:
98.9  125/68  P 79  R 16  97% on RA
Gen: NAD, lying in bed, comfortable, alert and talkative. Eating 
breakfast.
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+, no HSM
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice. his fingernails are normal 
except for one on his L hand which he says he injured a while 
back
Neuro: AAOx3. PERRL No facial droop.
Psych: Full range of affect
 
Pertinent Results:
EXAMINATION:  Chest CT 
  
INDICATION:  Pancytopenia of unclear etiology, smoking history, 
suspected 
infection versus neoplasm 
  
TECHNIQUE:  MDCT of the chest was obtained from thoracic inlet 
to upper 
abdomen.  Axial images were reviewed in conjunction with coronal 
and sagittal 
reformats 
  
COMPARISON:  ___ chest radiograph. 
  
FINDINGS:  
  
Aorta and pulmonary arteries are unremarkable.  Multiple 
mediastinal lymph 
nodes are present, ranging up to 13 mm in the right hilum, 11 mm 
in the left 
hilum, and 10 mm in the mediastinum.  No axillary 
lymphadenopathy is present.  
Heart size is normal.  There is minimal (trace) pericardial 
effusion.  
Bilateral pleural effusions are small to moderate, right 
slightly more than 
left.  Minimal bibasal atelectasis is present. 
  
Airways are patent to the subsegmental level bilaterally. 
  
There are no lytic or sclerotic lesions worrisome for infection 
or neoplasm. 
  
Assessment of lung parenchyma demonstrate mild septal 
thickening, diffuse that 
might be consistent with mild pulmonary edema.  Centrilobular 
emphysema is 
present, mild.  Diffuse ground-glass opacities in more 
peripheral rather than 
central location most likely do not represent pulmonary edema 
(unless 
represent its residua) and might represent minimal nonspecific 
interstitial 
lung disease.  Those findings are nonspecific but do not 
represent malignancy 
or infectious process. 
  
No masses demonstrated. 
  
Image portion of the upper abdomen will be reviewed separately 
in 
corresponding report will be issued. 
  
IMPRESSION:  
  
No evidence of malignancy within the chest. 
  
Mediastinal lymph nodes which are most likely reactive to the 
parenchymal 
process. 
  
Septal thickening most likely consistent with resolving 
interstitial pulmonary 
edema.  Nonspecific ground-glass opacities, potentially might 
represent 
interstitial lung disease or residual of resolving pulmonary 
edema 
  
Bilateral pleural effusions most likely related to resolving 
pulmonary edema 
  
Coronary calcifications. 
  
Reassessment of the chest in 6 months for documentation of 
resolution/ 
stability of the lymph nodes recommended. 

 
Brief Hospital Course:
___ is a ___ gentleman with hx of HTN, remote kidney stones, 
lyme dz about ___ yr ago (lyme arthritis p/w effusion, 
successfully treated) who presented to ___ on ___ 
with fevers (up to 100.3 in ED), fatigue x 1 week; found to have 
pancytopenia (initial WBC 1.9, platelets 68, hct 32, CBC three 
months prior to this was normal), started on abx given 
neutropenic fevertrans (ANC 970) and transferred to ___ on 
___ for further workup. Underwent bone marrow biopsy by heme 
on ___ (initial results showing hypocellular marrow) and 
counts recovered well (plts to 129, WBC total 4.2 on ___ and 
no episodes of bleeding. No clear etiology at this point but 
inflammatory markers were slightly elevated CRP 81. Was placed 
on cefepime for neutropenic fever and CXR showed ? RUL/RLL 
infectious changes so he will be continued on levofloxacin 
empirically for pneumonia. The possible RUL/RLL process on CXR 
but could be emphysematous changes from prior smoking but a CT 
thorax ordered to eval these chest findings further which showed 
no e/o neoplastic process. Rest of hospital course/plan are 
outlined below. 

#Pancytopenia: 
-Peripheral smear was reportedly negative for schistocytes but 
with some atypical cells (lymphs and ? immature cells), parasite 
smear negative x 1
- BM bx done ___: touch prep and aspirate were reviewed by Dr. 
___ path) which showed trilineage maturation 
-HIV negative, LDH 235, Tbili normal (hemolysis unlikely), retic 
ct is undoubtedly low
-EBV/CMV were negative, B12 normal, RF 9, parvovirus IgM 
negative IgG positive, lyme IgG positive IgM negative
-FE 15, ferritin 1382 consistent with anemia of chronic dz, uric 
acid 2.6, tSH 3.6
-CRP 80.7
-pt states that he hadn't changed any of his medications within 
the past ___ years. Denied any recent travel. Spends part of his 
year near ___ but denies any significant outdoor exposures 
or bites recently. 
-holding HCTZ (rarely associated with cytopenias including 
pancytopenia). 
-pt is consented for blood transfusion, hold plt transfusion 
unless bleeding, transfuse Hb > 7

#CXR (___) Findings of "mild peribronchovascular 
infiltration in the right upper and lower lung zones, when 
compared to the left.  Given the distribution, this is more 
likely infectious than edema.  Alternatively some of the 
distortion could be due to emphysema.  CT scanning may be 
necessary..."
-CT thorax w/wo contrast ___ was done which showed, "No 
evidence of malignancy within the chest. Mediastinal lymph nodes 
which are most likely reactive to the parenchymal 
process. Septal thickening most likely consistent with resolving 
interstitial pulmonary edema.  Nonspecific ground-glass 
opacities, potentially might represent interstitial lung disease 
or residual of resolving pulmonary edema"
-mediastinal LAD was likely reactive to whatever infectious 
process is seen in the lung. 
-recommending outpt CT scan in 6 months to f/u resolution of LAD

#Febrile Neutropenia: no focal symptoms but given fever, 
relative hypotension, was started on abx. , ANC >1000 as of 
___, no focal source, cultures negative. 
-CXR reportedly negative at ___, repeat CXR on ___ showed 
RUL/RLL process (which may be consistent with emphysema)peat CXR 
pending
-UA negative, no blood at ___
-vanc/zosyn started at ___ ___ cefepime at ___  
___ changed to levofloxacin ___- ) to complete 
total ___mpirically for PNA (last day total abx 
___

#HLD: holding statin in acute setting while searching for source 
of neutropenia

#HTN: held home meds including HCTZ as above and BP was normal. 
will discontinue this med indefinitely. 
-holding asa due to plts

#TRANSITIONAL 
-heme f/u appointment
-finalized ___ biopsy results were still pending and will be 
reviewed at time of heme f/u appointment
-repeat CT chest recommended in 6 months (so ___ to follow 
up resolution of mediastinal lymphadenopathy)
-anaplasma pending at ___  needs to be followed up as well
-pending labs which also need to be followed up by heme include: 
-f/u  ___, HBV/HCV, parasite smear x 3(negative x1), SPEP, UPEP
 
Medications on Admission:
Medications on admission:
.--------------- --------------- --------------- ---------------
Active Medication list as of ___:
 
Medications - Prescription
HYDROCHLOROTHIAZIDE - hydrochlorothiazide 25 mg tablet. 1
tablet(s) by mouth once a day no refill, call for an appt with 
md
LISINOPRIL - lisinopril 30 mg tablet. 1 tablet(s) by mouth once 
a
day
SIMVASTATIN - simvastatin 20 mg tablet. 1 tablet(s) by mouth 
once
a day no refill, call for an appt with md
___ [CHANTIX] - Chantix 1 mg tablet. 0.5 (One half)
tablet(s) by mouth qd times three, .5 bid for 4 days, and then 1
tablet bid for 12 week course
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 Tablet(s) by
mouth once a day
NAPROXEN SODIUM [ALEVE] - Aleve 220 mg tablet. 1 Tablet(s) by
mouth once a day
 
Discharge Medications:
1. Levofloxacin 750 mg PO DAILY 
last day of antibiotics ___ 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pancytopenia

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted for pancytopenia, most likely due to an 
unspecified infection. Your blood counts recovered but you had a 
bone marrow biopsy done, the finalized results of which are 
still pending. 

It is important that you follow up with hematology after 
discharge to have repeat blood work done within 1 week after 
discharge. 

I stopped your blood pressure medications because your blood 
pressure has been low to normal and hydrochlorothiazide is 
rarely associated with pancytopenia. 

You should also stop taking any medications that inhibit your 
platelets including aspirin or any other NSAIDs including 
ibuprofen or naproxen until we know that your platelets are 
normal. 

You will be discharged on antibiotics to complete a 1 week 
course of levofloxacin which will end on ___. 
 
Followup Instructions:
___